

*Vin in 0 pwl (0 0 20 20)
Vin in 0 13.2

.param vdd 15
Vdd vdd 0 {vdd}

.param vthreshold 1

.INC ADC_SAR.lib
.INC ADC_SAR.MEAS

E1	out[0]	0	out1[0]	0	1

*.SUBCKT ADC_SAR_4_bits_v2 out[3] out[2] out[1] out[0] in vdd vss
X1 out1[3] out1[2] out1[1] out1[0] in vdd 0 ADC_SAR_4_bits_v2



* ADC 8-bits using two 4-bits ADCs

.TRAN 20
.END
