*.TF  This is an analysis mode that finds the DC small signal transfer function of a node voltage
*or branch current due to small variations of an independent source
*.TF Trabaja en DC por ende los capacitores se comportan como un circuito abierto
*Y los inductores como un corto circuito
*-----------------------------------------------------------------------------
*Circuit
*-----------------------------------------------------------------------------
VS	in	0	AC {p_Vac} SIN({p_offset} {p_Vpeak} {p_Fin})
R1 	in 	out {p_r1}
c1 	out 0 	{p_c1}
*-----------------------------------------------------------------------------
*PARAMETERS
*-----------------------------------------------------------------------------
.param p_Vac 	1
.param p_Vpeak 	1
.param p_Fin 	2k
.param p_offset 0

.param p_r1		1
.param p_c1 	0.032uF

*.tran 3ms


.TF V(out,0) Vs
.END
