*Half wave circuit with Diode
*------------------------------------------------------------------------------------------------------------------------------------------
*Circuit
*------------------------------------------------------------------------------------------------------------------------------------------
V1	IN 		0 		SINE	({p_offset} {p_ampl} {p_freq})
D1 	2 		IN 		1N4148
D2 	IN 		OUT 	1N4148
D3 	2 		0 		1N4148
D4 	0 		out 	1N4148
R1 	OUT 	2 		{p_r1}
*------------------------------------------------------------------------------------------------------------------------------------------
*Models
*------------------------------------------------------------------------------------------------------------------------------------------
.model D D(IS=2.52e-9 RS=0.568 N=1.752 BV=100 IBV=100u)
*Standard library
* [ltz] removed Windows path: .lib C:\Users\jesse\AppData\Local\LTspice\lib\cmp\standard.dio
*------------------------------------------------------------------------------------------------------------------------------------------
*Parameters: User input
*------------------------------------------------------------------------------------------------------------------------------------------
.param		p_r1			1k 				; Resistor Value
.param		p_n_cycles		10				; Number of cycles
.param		p_offset		0				; Offset
.param		p_ampl			10				; Amplitude
.param		p_freq			10k				; Frequency
*------------------------------------------------------------------------------------------------------------------------------------------
*Parameters: Automatic calculation
*------------------------------------------------------------------------------------------------------------------------------------------
.param		p_period		1/p_freq		; Period
.param		p_start_time	4*p_period		; Start, for measurement's purposes
.param		p_stop_time		5*p_period		; Stop, for measurement's purposes
*------------------------------------------------------------------------------------------------------------------------------------------
*Measurements
*------------------------------------------------------------------------------------------------------------------------------------------
.MEASURE		TRAN	Vin_max			MAX		V(in)				FROM p_start_time TO p_stop_time
.MEASURE		TRAN	Vout_max		MAX		V(out,2)			FROM p_start_time TO p_stop_time
.MEASURE		TRAN	Diff_Vin_Vout	PARAM	Vin_max-Vout_max	; Vmax(in) - Vmax(out)
*------------------------------------------------------------------------------------------------------------------------------------------
* ANALYSIS
*------------------------------------------------------------------------------------------------------------------------------------------
.tran {p_period*p_n_cycles}
* [ltz] removed: .PLOT
* [ltz] removed: .PROBE
.END
