Ciruito Mallas
*Fuente
VS	Nodo1	0	3
*Resistencias
R1	Nodo1	Nodo2	1k
R2	Nodo2	0	1k
R3	Nodo2	0	1k
*
*Tran
.Tran 500us
*.op
*
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
