Ciruito Mallas
*------------------------------------
*Circuitry
*------------------------------------
*Fuente
IS  0  in  {param_is}
*Resistencias
RN	in	0	{param_rn}
RL	in	0	{param_rl}
*------------------------------------
*Parameters
.param  param_is	3m
.param	param_rn	333.33
.param	param_rl	200
*------------------------------------
*ANALYSIS
*Tran
.Tran 500us
*.op
*
*Resultados
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
