* OPAMP MACRO MODEL, SINGLE-POLE
*-----------------------------------------------------------------------------
*Parameters: User input
*-----------------------------------------------------------------------------
*Diff amp
.param p_rin 		10MEG 				; High impedance
.param p_Egain 		100k				; DC GAIN=100K

*Gain and 1st Pole
.param p_cp1		1.5915uF
.param p_fp1		100					; POLE1=100HZ
.param cal_Fu		{p_fp1*p_Egain} 	; UNITY GAIN (0db) = DCGAIN X POLE1 = 10MHZ

*Output Buffer
.param p_Ebuffer	1
.param p_rout		10

*Calculation base in Fu
*.param fu = 50 MHz.
*.param cal_fp1 	{fu / p_Egain}  ;  500 Hz
*.param p_rp1 		{1/( 2 * π * 1.5915uF * 500 Hz)}  ; Resistor calculation

*-----------------------------------------------------------------------------
*Parameters: Automatic Calculation
*-----------------------------------------------------------------------------
.param p_rp1		{1/(2*pi*p_fp1*p_cp1)} ; Resistance of LPF, first pole
*-----------------------------------------------------------------------------
*Subcircuit: OP AMP BASIC Mode;
*-----------------------------------------------------------------------------
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1	    1   2   6
* INPUT IMPEDANCE
*Diff amp
RIN		1	2			{p_rin}
EGAIN	3 	0	1 	2	{p_Egain}
*Gain and 1st Pole
RP1		3	4			{p_rp1}
CP1		4	0			{p_cp1}
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 	0	4 	0	{p_Ebuffer}
ROUT	5	6			{p_rout}
.ENDS
